US05486512
6,8-Dichloro-1,2,3,9-tetrahydropyrrolo[2,1-b]quinazoline
To a mechanically stirred solution of 1.5 g of the above 6,8-dichloro-2,3-dihydropyrrolo[2,1-b]quinazolin-9(1H)-one in 150 mL of glacial acetic acid at 60° C. was added 25 g of zinc dust. To this suspension was then added dropwise a solution of 35 mL of concentrated hydrochloric acid in 50 mL of glacial acetic acid in 20 minutes. After the addition was complete, the mixture was stirred for an additional 10 minutes. Then the unreacted zinc was filtered off (Caution!, Pyrophoric!), washed with 4×30 mL of glacial acetic acid and the filtrate was concentrated in vacuo. To the residue was added 80 mL of 20% aqueous sodium hydroxide and the product was extracted with tetrahydrofuran (3 times 150 mL). The organic extract was concentrated in vacuo and the residue was distributed between 100 mL of chloroform and 25 mL of water. The aqueous layer was extracted with 2×25 mL of chloroform. The combined extract was dried with anhydrous potassium carbonate, filtered, concentrated in vacuo, and flash chromatographed on silica gel, using 10:1 chloroform-methanol as eluent. The base was treated with 1 equivalent of 4N HCl in 50 mL absolute ethanol, concentrated in vacuo, redissolved in 50 mL absolute EtOH, concentrated, repeated again. Then the white solid was recrystallized from absolute EtOH-EtOAc, giving after drying in vacuo 0.8 g of 6,8-dichloro-1,2,3,9-tetrahydropyrrolo[2,1-b]-quinazoline hydrochloride in the form of white crystals, m.p. 305° C.-310° C. (dec.).

reactant | 6,8-dichloro-2,3-dihydropyrrolo[2,1-b]quinazolin-9(1H)-one | 1.5 g | ClC=1C=C(C=2C(N3C(=NC2C1)CCC3)=O)Cl | C11H8Cl2N2O
reactant | hydrochloric acid | 35 mL | Cl | ClH
reactant | HCl | 4N, 1 equivalent | Cl | ClH
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | zinc | 25 g | [Zn] | Zn
product | 6,8-Dichloro-1,2,3,9-tetrahydropyrrolo[2,1-b]quinazoline | ClC=1C=C(C=2CN3C(=NC2C1)CCC3)Cl | C11H10Cl2N2
